US08685969B2
7. 7-Amino-4-(2-fluorophenyl)-9H-pyrido[3,4-b]indole-1-carboxamide
A mixture of benzyl 1-carbamoyl-4-(2-fluorophenyl)-9H-pyrido[3,4-b]indol-7-ylcarbamate (210 mg, 0.416 mmol) and 10% Pd/C (45 mg, 0.042 mmol) in tetrahydrofuran (5 mL) and methanol (15 mL) was stirred under H2, provided with a H2 balloon, at rt for 1 hr. The catalyst was removed by suction filtration through CELITE®. The filtrate was concentrated under vacuum. The residue was diluted with CH2Cl2 (100 mL), washed with brine (30 mL), and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product, 7-amino-4-(2-fluorophenyl)-9H-pyrido[3,4-b]indole-1-carboxamide (132 mg, 0.375 mmol, 90% yield), as a tan solid. LCMS (M+H)+=321.10.

reactant | benzyl 1-carbamoyl-4-(2-fluorophenyl)-9H-pyrido[3,4-b]indol-7-ylcarbamate | 0.416 mmol, 210 mg | C(N)(=O)C1=NC=C(C2=C1NC1=CC(=CC=C21)NC(OCC2=CC=CC=C2)=O)C2=C(C=CC=C2)F | C26H19FN4O3
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 15 mL | CO | CH4O
catalyst | Pd/C | 0.042 mmol, 45 mg | [Pd] | Pd
product | 7-amino-4-(2-fluorophenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.375 mmol, 132 mg, 90% yield | NC1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C=CC=C3)F)C(=O)N | C18H13FN4O
